US05574016
To a mixture of ethyl 5-(4-amidinophenoxy)valerate hydrochloride (14.6 g) in a mixture of tetrahydrofuran (150 ml) and 1N sodium hydroxide solution was added benzyloxycarbonyl chloride (10.4 ml) under cooling with ice-water for 1 hour. The mixture was stirred for 2 hours at 10° C. maintaining pH≈10 with 1N sodium hydroxide solution. The reaction mixture was poured into ethyl acetate (300 ml), and separated organic layer was washed with aqueous solution of sodium chloride, and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the resulting precipitate was washed with diethyl ether to give ethyl 5-[4-(N-benzyloxycarbonylamidino)phenoxy]valerate (171.48 g).

reactant | ethyl 5-(4-amidinophenoxy)valerate hydrochloride | 14.6 g | Cl.C(N)(=N)C1=CC=C(OCCCCC(=O)OCC)C=C1
reactant | benzyloxycarbonyl chloride | 10.4 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | ethyl 5-[4-(N-benzyloxycarbonylamidino)phenoxy]valerate | 171.48 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(OCCCCC(=O)OCC)C=C1 | C22H26N2O5
